US06130214
(±)-Ethyl 2-ethoxy-3-[4-[2-[2,2-dimethyl-4-oxo-3,4-dihydro-1,3-benzoxazin-3-yl]ethoxy]phenyl]propanoate
To a stirred solution of 2,2-dimethyl-4-oxo-3,4-dihydro-1,3-benzoxazine (0.3 g, 1.69 mmol) in DMF (3 mL) was added potassium carbonate (0.47 g, 3.39 mmol) and stirred for 30 min. To this reaction mixture was added a solution of ethyl 2-ethoxy-3-[4-(2-bromoethoxy) phenyl]propanoate (0.70 g, 2.03 mmol) (disclosed in U.S. patent application Ser. No. 09/012,585) in DMF (1 mL) and stirred for 24 h at 60-70° C. The reaction mixture was diluted with water and extracted with ethyl acetate (3×10 mL). The combined organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated. The residue was chromatographed on silica gel using a gradient of 5-15% of ethyl acetate in pet ether as eluent to afford the title compound (0.34 g, 45%) as a liquid.

reactant | 2,2-dimethyl-4-oxo-3,4-dihydro-1,3-benzoxazine | 1.69 mmol, 0.3 g | CC1(OC2=C(C(N1)=O)C=CC=C2)C | C10H11NO2
reactant | potassium carbonate | 3.39 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-ethoxy-3-[4-(2-bromoethoxy) phenyl]propanoate | 2.03 mmol, 0.70 g | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCBr | C15H21BrO4
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (±)-Ethyl 2-ethoxy-3-[4-[2-[2,2-dimethyl-4-oxo-3,4-dihydro-1,3-benzoxazin-3-yl]ethoxy]phenyl]propanoate | 0.34 g, 45% | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCN1C(OC2=C(C1=O)C=CC=C2)(C)C | C25H31NO6
